US08247403B2
(2) 8-fluoro-9-furan-3-yl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A solution of 4-benzyl-8-fluoro-9-furan-3-yl-2,3,4,5-tetrahydro-1,4-benzoxazepine (104 mg, 0.323 mmol), 1-chloroethyl chloroformate (0.0418 ml, 0.387 mmol) in toluene (2 ml) was stirred at 90° C. for 2 hr, and the solvent was evaporated under reduced pressure. Water and 1N sodium hydroxide were added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=4:1). To ethyl acetate solution of the residue was added 4N hydrogen chloride-ethyl acetate. The precipitate was collected by filtration and was recrystallized from a mixed solvent of ethanol and diisopropyl ether to give the desired product (28 mg, 32.3%) as a solid.

reactant | 4-benzyl-8-fluoro-9-furan-3-yl-2,3,4,5-tetrahydro-1,4-benzoxazepine | 0.323 mmol, 104 mg | C(C1=CC=CC=C1)N1CCOC2=C(C1)C=CC(=C2C2=COC=C2)F | C20H18FNO2
reactant | 1-chloroethyl chloroformate | 0.387 mmol, 0.0418 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 8-fluoro-9-furan-3-yl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 28 mg, 32.3% | Cl.FC1=C(C2=C(CNCCO2)C=C1)C1=COC=C1 | InChI=1S/C13H12FNO2.ClH/c14-11-2-1-9-7-15-4-6-17-13(9)12(11)10-3-5-16-8-10;/h1-3,5,8,15H,4,6-7H2;1H
